US04000192
a. 5-(N,N-Dibenzylglycyl)-2-(2-phenoxyethoxy)benzamide
A solution of the sodium salt from 5-(N,N-dibenzylglycyl)-salicylamide (10 g) and sodium hydride (0.7 g) in dimethylformamide (50 ml) was heated at 100° for 2 hours with 2-phenoxyethyl bromide (6 g. ). The solution was evaporated under reduced pressure gave a yellow residue that was dissolved in ethyl acetate and water. The organic solution was washed three times with water, dried (MgSO4) and evaporated to leave the crude ether as a yellow oily solid, which was recrystallised from ethanol (150 ml) to give colourless plates (4.6 g) m.p. 146°-147°.

reactant | sodium | [Na] | Na
reactant | 5-(N,N-dibenzylglycyl)-salicylamide | 10 g | C(C1=CC=CC=C1)N(CC(=O)C1=CC=C(C(C(=O)N)=C1)O)CC1=CC=CC=C1 | C23H22N2O3
reactant | sodium hydride | 0.7 g | [H-].[Na+]
reactant | 2-phenoxyethyl bromide | 6 g | O(C1=CC=CC=C1)CCBr | C8H9BrO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 5-(N,N-Dibenzylglycyl)-2-(2-phenoxyethoxy)benzamide | C(C1=CC=CC=C1)N(CC(=O)C=1C=CC(=C(C(=O)N)C1)OCCOC1=CC=CC=C1)CC1=CC=CC=C1 | C31H30N2O4
